US07557103B2
B. 5-Fluoro-3-methyl-benzofuran
(2-Acetyl-4-fluoro-phenoxy)-acetic acid (1.87 gm, 8.8 mmol) is dissolved in acetic anhydride (60 mL) and treated with sodium acetate (10 gm, 0.12 mol). The resulting mixture is heated to 110° C. for 5 hr, then cooled to 0° C. H2O (100 mL) is added and the solution is stirred overnight at room temperature. The aqueous solution is then extracted into Et2O (2×75 mL). The combined organic extracts are washed with 3% aqueous KOH (2×75 mL), H2O (2×75 mL) and brine (1×75 mL), then dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography using hexane to give the title compound (1.07 gm, 81% yield).

reactant | (2-Acetyl-4-fluoro-phenoxy)-acetic acid | 8.8 mmol, 1.87 gm | C(C)(=O)C1=C(OCC(=O)O)C=CC(=C1)F | C10H9FO4
reactant | sodium acetate | 0.12 mol, 10 gm | C(C)(=O)[O-].[Na+]
reactant | H2O | 100 mL | O | H2O
solvent | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Fluoro-3-methyl-benzofuran | 1.07 gm, 81% yield | FC=1C=CC2=C(C(=CO2)C)C1 | C9H7FO
